US07153878B2
[2-(4-Bromo-phenyl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester (11.6 g, 37.4 mmol) is dissolved in anhydrous tetrahydrofuran (150 mL) and allowed to stir under nitrogen. Lithium diisopropyl amide solution in tetrahydrofuran (28 mL of 2M soln., 56.1 mmol) is slowly added to the solution at room temperature. This is then heated to 50° C. for 6 hours. The solution is allowed to cool to room temperature and methyl iodide (7.0 mL, 112 mmol) is added in one portion. The mixture is allowed to stir under nitrogen at room temperature overnight. The solution is quenched with a saturated solution of ammonium chloride, diluted with ethyl acetate, and then enough water added to dissolve the solids. The two phases are separated and the organic layer is washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The pure 2-[2-(4-Bromo-phenyl)-5-methyl-oxazol-4-yl]-propionic acid methyl ester (5.57 g, 17.19 mmol) is isolated in 46% yield after column chromatography. The racemic 2-[2-(4-Bromo-phenyl)-5-methyl-oxazol-4-yl)-propionic acid methyl ester is resolved on a Chiralcel OJ column (4.6×250 mm). Eluted with 40% isopropanol in heptane with 0.2% dimethy-ethylamine at 1 mL per minute with detection at 260 nM and concentrated the fractions to provide the pure enantiomer esters (isomer 1, 99.8% ee; isomer 2, 99.4% ee).

reactant | [2-(4-Bromo-phenyl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester | 37.4 mmol, 11.6 g | COC(CC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C13H12BrNO3
reactant | Lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 112 mmol, 7.0 mL | CI | CH3I
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 56.1 mmol, 2M, 28 mL | O1CCCC1 | C4H8O
product | 2-[2-(4-Bromo-phenyl)-5-methyl-oxazol-4-yl]-propionic acid methyl ester | 17.19 mmol, 5.57 g, 46% yield | COC(C(C)C=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C14H14BrNO3
